US05015755
A solution in methylene chloride (20 ml) of 2-(9--anthryl)ethanol (3.5 g; 15.7 mmoles), which had been obtained by reaction between bromoanthracene and n-butyllithium and subsequent reaction with ethylene oxide was slowly added to an ice-cold solution of phosgene (20 ml; 38.4 mmoles; 20% in toluene). The reaction mixture was kept for 3 hours in an ice-bath and was then allowed to stand at room temperature during the night. Work up by vacuum evaporation of the solvent gave a crystalline residue, which was recrystallized from methylene chloride solution by precipitation with hexane to give 3.36 g (75%) of AEOC as practically colourless crystals, mp 85°-87° C. 270 MHz 1H-NMR in CDCl3 : 4.10 (t, J=8 Hz, 2 H); 4.66 (t, J=8 Hz, 2 H); 7.46-7.61 (m, 4 H); 8.03 (d, J=8 Hz, 2 H); 8.27 (d, J=8.6 Hz, 2 H); 8.43 (s, 1 H, H-10).

reactant | bromoanthracene | BrC1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H9Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-(9--anthryl)ethanol | 15.7 mmoles, 3.5 g | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CCO | C16H14O
